Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"I feel like I'm going nuts, I can't keep a thought in my head."

 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ with reported h/o BPAD who self-presents to ED in acute 
distress. Pt is visibly anxious, with loud speech and frequent 
stuttering. Pt reports that his mother died 3 months ago. Then 2 
weeks ago pt found his wife (of 9 months) in bed with another 
man. Pt had been living in ___, but came to ___ after 
this to stay with family in the area. Since then pt has been 
very upset and cannot stop crying. On multiple occasions he also 
describes not being able to "hold a thought." He has had +SI 
with plan to drive his car into oncoming traffic (specifically 
into a semi truck). Pt denies any intent "b/c I'm too big of a 
chicken, and too good looking, and I couldn't put my son through 
that." 
     On ROS pt endorses symptoms of both depression and mania. 
He has
difficulty sleeping, only getting about 3 hrs/night. He goes to 
bed around 9pm but cannot fall asleep for several hours. He then 
awakens early in the morning, which he says is b/c he has worked 
as a ___ for many years and he is used to getting up early. 
He is experiencing excessive feelings of guilt about his 
marriage. Has had significant trouble concentrating. His 
appetite has been good. Is still able to enjoy activities such 
as spending time with friends. For the past week has had racing 
thoughts, which has caused a stuttering speech pattern. He has 
more energy and endorses some risky, impulsive behaviors such as 
excessive spending and driving under the influence of EtOH. Pt 
also talks about his abilities as a ___ in ___, and 
talks at length about how good he is at ___. He denies 
feeling that he has special powers, but says that he can "read 
people's minds" in the sense that he often knows what they are 
thinking. 
     Since leaving ___ 2 weeks ago, he has been living with 
various family members in ___ and ___. In addition, he 
went to the ED in ___ ___ day ago, and reports that he was 
not seen by a psychiatrist, but instead was given some valium 
and sent home. He wrecked his car while drinking and taking 
valium, and then received a DUI in ___. He reports losing 
his liscense ___ years. He then came to ___ to stay with some 
nephews, and came to the ED after an EtOH binge. 
 
Past Medical History:
I.Psychiatric History:
Pt reports h/o ADHD and BPAD that was diagnosed while he was in 
prison (___). 
1 prior hospitalization in ___: when pt was in high
school. Pt was depressed at that time and had beaten himself 
with
a vaccuum hose pipe. 
Denies any prior SA.
+ h/o aggressive and assaultive behavior: has been in jail
multiple times for this. Pt reports that he got tired of going 
to
jail and stopped fighting about ___ years ago. Denies any 
physical
aggression since then.
Pt was prescribed Lithium in the past, but stopped taking it
about ___ years ago b/c he did not like how it affected his
coordination. Also refers to taking Haldol in the past
.
Past Medical History
1.Umbilical hernia - repaired in ___.
2.Multiple head injuries from fights and MVAs.
. 
Substance Abuse History
Tob: 1 pack over the past 2 weeks.
EtOH: Describes a h/o binge drinking ("once I start I can't
stop."). Has been drinking daily for the past 2 weeks since
finding his wife in bed with another man. Last use was night
prior to coming to ED: had 18 pints of Guinness. Denies h/o DT's
or seizures.
MJ: smokes about 3x/month. Last use was 2 days ago. Denies use 
of any other illicits for many years. + h/o PSA ("LSD, 
everything") in the past.

 
Social History:
___
Family History:
reports that "everybody" in biologic
family has mental illness; including father and uncle with BPAD,
mother with "tons of different personalities" and sister "on all
kinds of meds."

 
Physical Exam:
Vitals: T-afebrile, BP 102/58, HR 94, RR 18
SKIN: Tatooes bilateral shoulders, No rashes. 
HEENT: Scar on midline of upper forehead; Conjunctiva injected; 
Sclerae, fundi clear. Ears clear. Dentition good. Pharynx clear. 

NECK: No LAD. Thyroid non-palpable. No carotid bruits. 
CV: RRR. 
LUNGS: CTAB. 
ABD: +BS. NT. No hepatosplenomegaly. 
BACK: NT. 
EXT: No C/C/E. 
NEURO: CN II-XII grossly intact. Motor - ___ throughout. 
+tremor. Sensory - intact to LT throughout. DTRs - 2+, 
symmetric. Coordination - WNL. Gait - WNL.
.
Mental Status Exam: 
APPEARANCE & FACIAL EXPRESSION: moderate hygiene, hair cut short 
and disheveled. Pt originally sitting in bed in hospital gown; 
later pacing around room, and then took off hospital gown and 
stayed in boxers for remainder of interview.
BEHAVIOR: cooperative, good eye contact, + psychomotor agitation
SPEECH: loud volume, pressured, stuttering at times
MOOD: "lost, scared"
AFFECT: expansive, labile
THOUGHT FORM: +FOI
THOUGHT CONTENT: +SI with plan to crash car, denies any current 
intent. Denies HI. +PI re: ability to read minds. + grandiosity.
ABNORMAL PERCEPTIONS: denies any current AVH (reports that
he saw Jesus in the past when he was high on mushrooms).
INSIGHT AND JUDGMENT: poor/poor
COGNITIVE ASSESSMENT: SENSORIUM: alert, ORIENTATION: x3, 
ATTENTION: correct DOWB. Unable to do MOYB MEMORY: Reg ___, 
Recall ___ at 5 min, CALCULATIONS: correct Q's in $1.75,. 
PROVERB INTERPRETATION: book... cover: "Oh, I don't
know, alright, it means don't judge that person just by how he 
looks b/c how he looks right now might not be how he really is, 
so you have to open up the cover to see what he's really like."
SIMILARITIES/ANALOGIES: apple:orange = "citric, Vitamin C, 
uh...fruit."

 
Pertinent Results:
___ 10:55AM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 10:55AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:55AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 09:10AM   GLUCOSE-212* UREA N-9 CREAT-1.0 SODIUM-143 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-26 ANION GAP-16
___ 09:10AM   ALT(SGPT)-35 AST(SGOT)-45* LD(LDH)-221 ALK 
PHOS-72 AMYLASE-77 TOT BILI-0.2
___ 09:10AM   LIPASE-54
___ 09:10AM   ALBUMIN-4.6 CALCIUM-8.9 PHOSPHATE-2.0* 
MAGNESIUM-2.0
___ 09:10AM   TSH-2.2
___ 09:10AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-POS barbitrt-NEG tricyclic-NEG
___ 09:10AM   WBC-6.6 RBC-5.39 HGB-16.7 HCT-48.9 MCV-91 
MCH-31.0 MCHC-34.1 RDW-13.9
___ 09:10AM   NEUTS-60.6 ___ MONOS-3.3 EOS-2.3 
BASOS-0.7
 
Brief Hospital Course:
Mr. ___ was admitted on a conditional voluntary basis.  

Substance abuse:  He was placed on a CIWA protocol and a valium 
taper which he tolerated without adverse effects. He refused 
campral or antabuse, etc.  He refused referral for substance 
abuse treatment, explaining that he could stop drinking if he 
put his will to it.  

Psychiatry:  Patient's anxiety and depression remitted quickly. 
He found Seroquel PRN useful for anxiety. The patient 
participated in individual, group, milieu therapy.  Depakote was 
started for history of affective lability, impulsivity, and 
violence, and the medication was tolerated without side effects. 
 The patient appeared to understand the risks and benefits of 
Seroquel and Depakote including their effects on the liver and 
that they may cause weight gain.  The patient was told not to 
drink alcohol while taking psychiatric medications.  The patient 
reported feeling that Seroquel took the edge off of his anxiety 
and agitation but did not have a sense of whether or not 
Depakote provided any benefit for the 2 days that he took that 
medication.  His mood became more stable but he continued to 
report difficulty containing his anger.  At times he was 
inappropriate when interacting with other patients and staff 
(i.e. initiating hugs with female patient, cursing, and 
threatening staff).  Occassionally he would make gestures that 
could be interpreted as threats. He did not accept 
responsibility for these actions.  When we attempted to engage 
patient in monitoring his own behavior for the benefit of 
himself and other patients, he requested to be discharged.

Disposition:  The patient was encouraged to participate in an 
outpatient substance abuse program and/or AA meetings.  However, 
he wanted to be discharged prior to being able to complete 
discharge planning.  He refused a list of homeless shelters.  He 
accepted referral to the ___ for primary care and 
psychiatric care.  At discharge, the patient denied having 
suicidal thoughts, intent, or plan.  The patient denies HI, AVH, 
paranoia.  
 
Medications on Admission:
None
 
Discharge Medications:
1. Quetiapine 50 mg Tablet Sig: One (1) Tablet PO up to four 
times per day as needed for anxiety.
Disp:*84 Tablet(s)* Refills:*0*
2. Divalproex ___ mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO BID (2 times a day).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I:  Alchohol dependence.  Mood disorder Not Otherwise 
Specified (rule out bipolar disorder vs. substance induced mood 
disorder)
AXIS II:  Cluster B (Antisocial) traits
AXIS III:  Alcohol withdrawal.  History of multiple head 
traumas.  
AXIS IV:  homeless, unemployed, has marital strife
AXIS V:  55

 
Discharge Condition:
Stable, improved.
Mental Status Exam:
Appearance:Neatly groomed, good eye contact, less fidgeting 
today but stil makes gestures as he speaks.
Speech:Loud, somewhat rapid, but not difficult to interrupt.  
Mood:“Pretty good.”
Affect:  Somewhat anxious, irritable, a bit elevated, but in 
behavioral control and able to engage in reciprocal 
conversation.
Thought Process:Linear, but overinclusive
Thought Content: Denies SI.  Denies HI.  Denies unusual 
content
Abnormal Perceptions:Denies

 
Discharge Instructions:
Please follow up with outpatient appointments as documented.
You have been provided with a list including information about 
outpatient clinics and outpatient substance abuse programs; 
please follow up with these as you see fit.
Return to ED if symptoms worsen or recur.
 
Followup Instructions:
___